*** SPICE deck for cell common-drain-amp{lay} from library Analog_Circuit_CMOS_Chip
*** Created on Tue May 12, 2026 17:36:11
*** Last revised on Wed May 13, 2026 09:40:35
*** Written on Wed May 13, 2026 09:41:23 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** TOP LEVEL CELL: common-drain-amp{lay}
Mnmos_0 Vout Vin vdd 0 NMOS L=1.2U W=1.2U AS=3.42P AD=2.61P PS=11U PD=7.8U
Mnmos_1 0 Vb Vout 0 NMOS L=0.8U W=4U AS=2.61P AD=5.8P PS=7.8U PD=16.6U

* Spice Code nodes in cell cell 'common-drain-amp{lay}'
vdd vdd 0 DC 5
vb vb 0 DC 1
vin vin 0 sin(4 1 1k 0 0 0 50)
.tran 0 5m
.include "C:\C5_models.txt"
.END
